US07067517B2
Methyl-phenyl-carbamic acid 4-[2-(4-chloro-phenyl)-ethyl]-phenyl ester
The title product was prepared from 4-(4-chlorophenethyl)-phenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (57%, white crystals). HPLC-MS: m/z=366.1 (M+1); Rt: 5.58 min.

reactant | 4-(4-chlorophenethyl)-phenol | ClC1=CC=C(CCC2=CC=C(C=C2)O)C=C1 | C14H13ClO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-[2-(4-chloro-phenyl)-ethyl]-phenyl ester | ClC1=CC=C(C=C1)CCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C22H20ClNO2
